### PR TITLE
[Merged by Bors] - chore: rename polynomial lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
Renaming the lemmas `Polynomial.prod_roots_eq_coeff_zero_of_monic_of_splits` and `Polynomial.sum_roots_eq_nextCoeff_of_monic_of_split` to agree with the equality order.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
Can you please add deprecation aliases to them? Thanks!

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 1]
```diff
@@ -586,15 +586,16 @@ theorem eval_derivative_div_eval_of_ne_zero_of_splits {p : K[X]} {x : K}
...
   nth_rw 1 [eq_prod_roots_of_monic_of_splits_id hmo hP]
   rw [coeff_zero_eq_eval_zero, eval_multiset_prod, Multiset.map_map]
   simp_rw [Function.comp_apply, eval_sub, eval_X, zero_sub, eval_C]
   simp only [splits_iff_card_roots.1 hP, Multiset.prod_map_neg]
 
-/-- If `P` is a monic polynomial that splits, then `P.nextCoeff` equals the sum of the roots. -/
-theorem sum_roots_eq_nextCoeff_of_monic_of_split {P : K[X]} (hmo : P.Monic)
+/-- If `P` is a monic polynomial that splits, then `P.nextCoeff` equals the negative of the sum
+of the roots. -/
+theorem nextCoeff_eq_neg_sum_roots_of_monic_of_split {P : K[X]} (hmo : P.Monic)
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Polynomial/Splits.lean]:
```suggestion
theorem nextCoeff_eq_neg_sum_roots_of_monic_of_splits {P : K[X]} (hmo : P.Monic)
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
